US06777395B2
8-Bromo-2′-C-methyladenosine
To a solution of 2′-C-methyladenosine [for preparation, see J. Med. Chem. 41:1708 (1998)] (138 mg, 0.5 mmol) in DMF (4 mL) was added N-bromosuccinimide (231 mg, 1.35 mmol). The solution was stirred protected from light at rt for 2 d and then evaporated in vacuo. The crude product was purified on a silica gel column (3×9 cm) using dichloromethane/methanol (25/1, 20/1 and 15/1) as eluent. Fractions containing the product were pooled and evaporated in vacuo to give the desired product (38 mg) as a white solid.

reactant | 2′-C-methyladenosine | 0.5 mmol, 138 mg | C[C@@]1([C@@H](O[C@@H]([C@H]1O)CO)N1C=NC=2C(N)=NC=NC12)O | C11H15N5O4
reactant | N-bromosuccinimide | 1.35 mmol, 231 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 8-Bromo-2′-C-methyladenosine | 38 mg | BrC=1N([C@H]2[C@](O)([C@H](O)[C@@H](CO)O2)C)C=2N=CN=C(C2N1)N | C11H14BrN5O4
